US07435738B2
Preparation of 6-amino-4-chloro-2-nitrophenol
230.6 g (1 mole) of N-(5-chloro-2-hydroxy-3-nitrophenyl)acetamide prepared according to Example 1b was suspended in a mixture of 950 ml of water and 100 ml of 2-propanol under a mild nitrogen purge. 345 ml of 36% w/w hydrochloric acid was added followed by 25 ml of water. The mixture was heated to reflux in about 30° C., while vigorously stirring and refluxed for 2 hours. The mixture was cooled to 0-5° C. in about one hour and stirred for an additional hour at 0-5° C. The solid was filtered off, washed twice with 250 ml of water, and dried at 50° C. and 100 mbar under a gentle nitrogen stream till dry. Yield about 91%.

reactant | N-(5-chloro-2-hydroxy-3-nitrophenyl)acetamide | 1 mole, 230.6 g | ClC=1C=C(C(=C(C1)NC(C)=O)O)[N+](=O)[O-] | C8H7ClN2O4
solvent | water | 950 ml | O | H2O
solvent | 2-propanol | 100 ml | CC(C)O | C3H8O
product | 6-amino-4-chloro-2-nitrophenol | Yield about 91% | NC1=CC(=CC(=C1O)[N+](=O)[O-])Cl | C6H5ClN2O3
